US08802679B2
5-Bromo-2-chloropyrimidine (400 mg) was dissolved in DMF (4 ml), and thiomorpholine 1,1-dioxide (308 mg) and K2CO3 (857 mg) were added thereto, followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and then a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH) to obtain 4-(5-bromopyrimidin-2-yl)thiomorpholine 1,1-dioxide (191 mg).

reactant | 5-Bromo-2-chloropyrimidine | 400 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | thiomorpholine 1,1-dioxide | 308 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | K2CO3 | 857 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-(5-bromopyrimidin-2-yl)thiomorpholine 1,1-dioxide | 191 mg | BrC=1C=NC(=NC1)N1CCS(CC1)(=O)=O | C8H10BrN3O2S
